US04287201
2-(4-Hydroxy-2-methylphenylimino)imidazolidine hydrobromide
A solution of 2-(4-methoxy-2-methylphenylimino)imidazolidine (2.05 g, 10 mmoles) in 48% hydrobromic acid (20 ml) is heated with stirring in an oil bath at 110°.

reactant | 2-(4-methoxy-2-methylphenylimino)imidazolidine | 10 mmoles, 2.05 g | COC1=CC(=C(C=C1)N=C1NCCN1)C | C11H15N3O
reactant | hydrobromic acid | 20 ml | Br | BrH
product | 2-(4-Hydroxy-2-methylphenylimino)imidazolidine hydrobromide | Br.OC1=CC(=C(C=C1)N=C1NCCN1)C | InChI=1S/C10H13N3O.BrH/c1-7-6-8(14)2-3-9(7)13-10-11-4-5-12-10;/h2-3,6,14H,4-5H2,1H3,(H2,11,12,13);1H
